US06977262B2
Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
A solution of 2-chlorobenzaldehyde (1.7 g), 3-aminopyrazole (1.0 g) and ethyl acetoacetate (1.6 g) in acetonitrile (20 mL) was heated under reflux overnight. The reaction mixture was cooled to room temperature and the solvent was evaporated under reduced pressure to give an oil. The oil was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (8:2)) to give the title compound (850 mg) as colorless crystals.

reactant | 2-chlorobenzaldehyde | 1.7 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | 1.0 g | NC1=NNC=C1 | C3H5N3
reactant | ethyl acetoacetate | 1.6 g | C(CC(=O)C)(=O)OCC | C6H10O3
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-methyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | 850 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)C)=NNC2 | C16H16ClN3O2
